US20010056109A1
(b) 1-(1H-Imidazol-4-yl)-4,4-diphenylbutan-1-ol
3.0 g of 1-(3-benzyl-3H-imidazol-4-yl)-4,4-diphenylbutan-1-ol was dissolved in 150 ml of ethanol. The solution was hydrogenated at 45° C. with 10% palladium on carbon as catalyst for 5 hours. The reaction mixture was filtered, and the filtrate was evaporated to dryness under reduced pressure.

reactant | 1-(3-benzyl-3H-imidazol-4-yl)-4,4-diphenylbutan-1-ol | 3.0 g | C(C1=CC=CC=C1)N1C=NC=C1C(CCC(C1=CC=CC=C1)C1=CC=CC=C1)O | C26H26N2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(1H-Imidazol-4-yl)-4,4-diphenylbutan-1-ol | N1C=NC(=C1)C(CCC(C1=CC=CC=C1)C1=CC=CC=C1)O | C19H20N2O
